US04358593
6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-morpholinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
The process of Example 7 was used to prepare the above product, starting with 7.2 g. of 4-(2-morpholinoethoxy)benzoic acid, hydrochloride, and 5 g. of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene. A yield of 4.25 g. of recrystallized product was obtained, of which 1.25 g. was purified by chromatography as explained in Example 7 above to obtain 0.9 g. of highly purified product, m.p. 197°-200°.

reactant | 4-(2-morpholinoethoxy)benzoic acid, hydrochloride | Cl.O1CCN(CC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)benzo[b]thiophene | CS(=O)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | C16H14O6S3
product | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-[4-(2-morpholinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCOCC2)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1 | InChI=1S/C29H29NO9S3.ClH/c1-41(32,33)38-23-9-5-21(6-10-23)29-27(25-12-11-24(19-26(25)40-29)39-42(2,34)35)28(31)20-3-7-22(8-4-20)37-18-15-30-13-16-36-17-14-30;/h3-12,19H,13-18H2,1-2H3;1H
